US05616586
9-Bromo-5-(p-methoxyphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (150 mg, 0.442 mmol) and p-methoxyaniline (70 mg, 0.57 mmol) to give 179 mg of the title compound (91%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.06 (s, 1H), 9.86 (s, 1H), 7.46 (d, 2H, J=9 Hz), 7.24 (d, 1H, J=2 Hz), 7.16 (d, 1H, J=2 Hz), 6.88 (d, 2H, J=9 Hz), 5.15~5.25 (m, 1H), 3.72 (s, 3H), 3.05 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=16.8 Hz), 2.50~2.64 (m, 2H), 2.09 (dm, 1H, J=13.5 Hz), 1.78~1.94 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.442 mmol, 150 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | p-methoxyaniline | 0.57 mmol, 70 mg | COC1=CC=C(N)C=C1 | C7H9NO
product | 9-Bromo-5-(p-methoxyphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 179 mg, 91% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC=C(C=C2)OC)=O | C20H18BrN3O4
